US05645985
5-(2-pyridinyl)-2'-deoxyuridine.
In a 25 mL pear shaped flask was placed 5-iodo-2'-deoxyuridine (0.354 g, 1.0 mmol), 2-trimethylstannylpyridine (0.84 g, 3.5 mmol), Bis(triphenylphosphine)-palladium (II) chloride (0.070 g, 0.1 mmol), and anhydrous 1,4-dioxane (15 mL). The reaction was heated at 60° C. for 15 hrs then at 90° C. for 1 h. The solvent was evaporated and the residue purified by silica gel chromatography (10% CH3OH in CH2Cl2 (1% NH3)) to yield 0.253 g (83%) of the title compound as a white solid m.p. 201°-203° C.

reactant | 5-iodo-2'-deoxyuridine | 1.0 mmol, 0.354 g | IC=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C9H11IN2O5
reactant | 2-trimethylstannylpyridine | 3.5 mmol, 0.84 g | C[Sn](C1=NC=CC=C1)(C)C
catalyst | Bis(triphenylphosphine)-palladium (II) chloride | 0.1 mmol, 0.070 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 5-(2-pyridinyl)-2'-deoxyuridine | 0.253 g, 83% | N1=C(C=CC=C1)C=1C(NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C1)=O)=O | C14H15N3O5
